US05700935
Phenyl isothiocyanate (1.35 g, 10 m mol) was dissolved in 7 ml of anhydrous methylene chloride, and the solution was cooled in an ice bath. Thereto was added 1.2 g (10 m mol) of 2-(2-aminoethyl)pyridine dissolved in 3 ml of anhydrous methylene chloride. The mixture was stirred at room temperature for 15 minutes. The reaction mixture was mixed with water, followed by extraction with methylene chloride. The extract was dried with anhydrous potassium carbonate and concentrated to obtain 2.8 g of a crude product. It was purified by silica gel column chromatography (chloroform:methanol=9/1) to obtain 2.3 g (yield: 88%) of N-phenyl-N'-2-pyridylethylurea.

reactant | Phenyl isothiocyanate | 1.35 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 2-(2-aminoethyl)pyridine | 1.2 g | NCCC1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-N'-2-pyridylethylurea | 2.3 g, yield: 88% | C1(=CC=CC=C1)NC(=O)NCCC1=NC=CC=C1 | C14H15N3O
